US07253286B2
Phenyl N-(2-chloroethyl)carbamate
2-Chloroethylamine hydrochloride (5.8 g, 50 mmol) was used for reaction in the same manner as Production Example 310-1, purification was performed by silica gel column chromatography (hexane/ethyl acetate system), the obtained crystals were suspended in diethyl ether/hexane, and the crystals were filtered out, washed with hexane and dried by aspiration to obtain the title compound (6.088 g, 30.49 mmol, 60.99%) as colorless crystals.

reactant | 2-Chloroethylamine hydrochloride | 50 mmol, 5.8 g | Cl.ClCCN
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | diethyl ether hexane | C(C)OCC.CCCCCC
product | Phenyl N-(2-chloroethyl)carbamate | 30.49 mmol, 6.088 g, 60.99% | ClCCNC(OC1=CC=CC=C1)=O | C9H10ClNO2
